US06297258B1
4-[Bis-(2-hydroxy-ethyl)-amino]-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide
In the mamner of Example 103, 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide and bis-(2-hydroxy-ethyl) amine was converted to 22.2 mg of the title compound (free base), mass spectrum (electrospray, m/e): M+H 514.0 and 60.7 mg of the title compound as the bis-trifluoroacetate salt); mass spectrum (electrospray, m/e): M+H 514.0.

reactant | 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCBr)=O)OC)C#N | C21H15BrClFN4O2
reactant | bis-(2-hydroxy-ethyl) amine | OCCNCCO | C4H11NO2
product | 4-[Bis-(2-hydroxy-ethyl)-amino]-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | 22.2 mg | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCN(CCO)CCO)=O)OC)C#N | C25H25ClFN5O4
